US05498714
In the production process of this invention, a highly concentrated aqueous tribromophenolate solution of not less than 50% concentration is first prepared with the aid of a non-hydrophilic solvent and this solution is added dropwise to a solution (or suspension) of cyanuric chloride containing a phase transfer catalyst in a non-hydrophilic solvent or, alternatively, the phase transfer catalyst and powdery cyanuric chloride are added to the highly concentrated aqueous tribromophenolate solution. The preferred molar ratio of cyanuric chloride to tribromophenol is 1:2.94-3.60. After the above dripping or addition, the reaction system is aged where necessary and the non-hydrophilic solvent is removed from the reaction system at atmospheric or subatmospheric pressure. In this manner, tris(tribromophenoxy)-s-triazine of high purity can be obtained.

reactant | cyanuric chloride | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | tribromophenolate | BrC1=C(C(=C(C=C1)[O-])Br)Br
reactant | tribromophenol | BrC1=C(C(=C(C=C1)O)Br)Br | C6H3Br3O
product | tris(tribromophenoxy)-s-triazine | BrC1=C(C(=C(OC2=NC(=NC(=N2)OC2=C(C(=C(C=C2)Br)Br)Br)OC2=C(C(=C(C=C2)Br)Br)Br)C=C1)Br)Br | C21H6Br9N3O3
